US07888347B2
N-Methyl-4-(5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)benzamide (D25)
A solution of 1,1-dimethylethyl 2-{4-[(methylamino)carbonyl]phenyl}-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (184 mg, 0.50 mmol; may be prepared as described in Description 24) in dichloromethane (2 ml) was treated with trifluoroacetic acid (2 ml). The mixture was stirred at room temperature for 2 hours. The mixture was diluted with methanol and passed down a SCX cartridge eluting with methanol and then a 2M solution of ammonia in methanol. The basic fractions were combined and evaporated to afford the title compound (D25); MS (ES+) m/e 271 [M+H]+.

reactant | 1,1-dimethylethyl 2-{4-[(methylamino)carbonyl]phenyl}-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | 0.50 mmol, 184 mg | CNC(=O)C1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C20H26N4O3
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-Methyl-4-(5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)benzamide | CNC(C1=CC=C(C=C1)N1N=C2CCNCCC2=C1)=O | C15H18N4O
